US08293923B2
Step 1: 4-Cyclohexylamino-3-nitrobenzoic acid, ethyl ester
Ethyl 4-fluoro-3-nitrobenzoate (5.73 g, 0.0269 mol) was dissolved in 25 mL of DMF. While stirring under an atmosphere of nitrogen, cyclohexanamine in 5 mL of DMF (3.4 mL, 0.030 mol) and N,N-diisopropylethylamine (14 mL, 0.080 mol) were added simultaneously via two seperate syringes. The reaction mixture turned immediately into a deep yellow/orange gel and was diluted with another 5 mL of DMF. The reaction mixture was slightly exothermic and stirring was maintained until the reaction was complete as determined by LC/MS. The reaction mixture was then diluted with ethyl acetate and washed with 5% citric acid then brine. The organic phase was collected, dried over sodium sulfate and concentrated to a yellow oil which solidified under high vacuum to yield 8.47 g of the title compound.

reactant | Ethyl 4-fluoro-3-nitrobenzoate | 0.0269 mol, 5.73 g | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | cyclohexanamine | C1(CCCCC1)N | C6H13N
reactant | N,N-diisopropylethylamine | 0.080 mol, 14 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.030 mol, 5 mL | CN(C)C=O | C3H7NO
product | 4-Cyclohexylamino-3-nitrobenzoic acid, ethyl ester | 8.47 g | C1(CCCCC1)NC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C15H20N2O4
